US06949542B2
[2-Amino-4-chloro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from ([4-chloro-2-nitro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester (Example A25) (8.70 g, 23.5 mmol) by hydrogenation with 5% Pt/C according to the general procedure J (method a). Obtained as a yellow solid (7.94 g, 99%).

reactant | [4-chloro-2-nitro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | 23.5 mmol, 8.70 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)Cl)[N+](=O)[O-])=O | C13H14ClF3N2O5
catalyst | Pt/C | [Pt] | Pt
product | [2-Amino-4-chloro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)Cl)N)=O | C13H16ClF3N2O3
